US05596009
Methyl [2-(4,4-diphenylsemicarbazonomethyl)-1,2,3,4-tetrahydronaphthalen-5-yl]oxyacetate
To a solution of methyl(2-formyl-1,2,3,4-tetrahydronaphthalen-5-yl)oxyacetate (248 mg), prepared by the same procedure as reference example 1, m ethanol (10 ml) was added 4,4-diphenylsemicarbazide (0.27 g) under an atmosphere of argon. After stirred for 1 h at room temperature, the mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methanol:methylene chloride=3:100) to give the title compound (444 mg) having the following physical data.

reactant | methyl(2-formyl-1,2,3,4-tetrahydronaphthalen-5-yl)oxyacetate | 248 mg | COC(COC1=C2CCC(CC2=CC=C1)C=O)=O | C14H16O4
reactant | 4,4-diphenylsemicarbazide | 0.27 g | C1(=CC=CC=C1)N(C(NN)=O)C1=CC=CC=C1 | C13H13N3O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Methyl [2-(4,4-diphenylsemicarbazonomethyl)-1,2,3,4-tetrahydronaphthalen-5-yl]oxyacetate | 444 mg | C1(=CC=CC=C1)N(C(NN=CC1CC2=CC=CC(=C2CC1)OCC(=O)OC)=O)C1=CC=CC=C1 | C27H27N3O4
